### PR TITLE
[Merged by Bors] - chore/perf(Analysis): replace continuity -> fun_prop

### PR DESCRIPTION
**Pull request by grunweg**
This is exhaustive, with the exception of one goal where the `continuity` proof is seemingly not about continuity at all...
We tag two lemmas with `fun_prop` which were continuity lemmas.

In some cases, this speeds up proofs significantly; we also resolve two porting notes about continuity not applying.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
!bench

File: Mathlib/Analysis/NormedSpace/SphereNormEquiv.lean [hunk 1]
```diff
@@ -38,5 +38,9 @@ noncomputable def homeomorphUnitSphereProd :
     rw [mem_Ioi] at hr
     ext <;> simp [hx, norm_smul, hr.le, abs_of_pos hr, hr.ne']
   continuous_toFun := by
-    refine .prod_mk (.codRestrict (.smul (.inv₀ ?_ ?_) ?_) _) ?_ <;> continuity
-  continuous_invFun := by continuity
+    refine .prod_mk (.codRestrict (.smul (.inv₀ ?_ ?_) ?_) _) ?_
+    · fun_prop
+    · continuity
```
Comment (grunweg) [inline Mathlib/Analysis/NormedSpace/SphereNormEquiv.lean:43]: The output of continuity? looks very unrelated to continuity...

File: Mathlib/Analysis/NormedSpace/SphereNormEquiv.lean [hunk 2]
```diff
@@ -38,5 +38,9 @@ noncomputable def homeomorphUnitSphereProd :
...
+    · fun_prop
+    · apply Continuous.subtype_mk (by fun_prop)
```
Comment (grunweg) [inline Mathlib/Analysis/NormedSpace/SphereNormEquiv.lean:45]: It would be nice to investigate why Continuous.subtype_mk (which is tagged fun_prop) doesn't fire here.

**Comment by grunweg** [comment]
!bench

File: Mathlib/Analysis/NormedSpace/SphereNormEquiv.lean (hunk 1 above)
Comment (sgouezel) [inline Mathlib/Analysis/NormedSpace/SphereNormEquiv.lean:43]:
```suggestion
    · simp
```
would make more sense.

File: Mathlib/Analysis/NormedSpace/SphereNormEquiv.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/Analysis/NormedSpace/SphereNormEquiv.lean:45]:
```suggestion
    · fun_prop
```
works just fine, right?

File: Mathlib/Analysis/ODE/PicardLindelof.lean [hunk 3]
```diff
@@ -304,8 +304,7 @@ theorem dist_next_apply_le_of_le {f₁ f₂ : FunSpace v} {n : ℕ} {d : ℝ}
       refine norm_integral_le_of_norm_le (Continuous.integrableOn_uIoc ?_) ?_
       · -- Porting note: was `continuity`
         refine .mul continuous_const <| .mul (.div_const ?_ _) continuous_const
```
Comment (sgouezel) [inline Mathlib/Analysis/ODE/PicardLindelof.lean:306]: All this block can be replaced with just `fun_prop`. Move it even to the `refine` above?

**Review by sgouezel — COMMENTED** [review]
Looks great, thanks!

File: Mathlib/Analysis/NormedSpace/SphereNormEquiv.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Analysis/NormedSpace/SphereNormEquiv.lean]: Oh, indeed it works here; changed. (It does not work on the next line.)

File: Mathlib/Analysis/ODE/PicardLindelof.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Analysis/ODE/PicardLindelof.lean]: Done, and unindented the refine.

**Comment by grunweg** [comment]
Thank you for the review! I have addressed all comments.
awaiting-review

**Comment by sgouezel** [comment]
bors r+
Thanks!
